US06440995B1
2-[7-Methoxy-2-(4-methoxy-phenyl)-quinolin-4-ylamino]-ethanol hydrochloride
The title compound, m.p. 244-245° C. and MS: m/e=325.3 (M+H+), was prepared from 4-chloro-7-methoxy-2-(4-methoxy-phenyl)-quinoline and ethanolamine.

reactant | 4-chloro-7-methoxy-2-(4-methoxy-phenyl)-quinoline | ClC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=C(C=C1)OC | C17H14ClNO2
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-[7-Methoxy-2-(4-methoxy-phenyl)-quinolin-4-ylamino]-ethanol hydrochloride | Cl.COC1=CC=C2C(=CC(=NC2=C1)C1=CC=C(C=C1)OC)NCCO | InChI=1S/C19H20N2O3.ClH/c1-23-14-5-3-13(4-6-14)17-12-18(20-9-10-22)16-8-7-15(24-2)11-19(16)21-17;/h3-8,11-12,22H,9-10H2,1-2H3,(H,20,21);1H
